US07291632B2
Furan-2-carboxylic acid (6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-amide hydrochloride
Prepare according to procedure in Example 69 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34, 175 mg, 0.794 mmol), 2-furoyl chloride (117 μL, 1.19 mmol), and pyridine (15 mL) to yield 243 mg (87%) of the title compound: mass spectrum (ion spray): m/z=315.1 (M+1); Analysis calc'd for C17H23N4O2Cl.0.2H2O: C, 57.60; H, 6.65; N, 15.81. Found: C, 57.31; H, 6.72; N, 15.81. mp 116–9° C.

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.794 mmol, 175 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | 2-furoyl chloride | 1.19 mmol, 117 μL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | Furan-2-carboxylic acid (6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-amide hydrochloride | 243 mg, 87% | Cl.CN(C1=CC=CC(=N1)NC(=O)C=1OC=CC1)C1CCN(CC1)C | InChI=1S/C17H22N4O2.ClH/c1-20-10-8-13(9-11-20)21(2)16-7-3-6-15(18-16)19-17(22)14-5-4-12-23-14;/h3-7,12-13H,8-11H2,1-2H3,(H,18,19,22);1H
